US05869501
7-[[4-[(1-t-Butoxycarbonyl-4-piperidyl)oxy]anilino]methyl]-2-naphthalenecarbonitrile obtained in Reference Example 2 (150 mg) was dissolved in 1 ml of pyridine, 268 mg of acetic anhydride and 10 mg of 4-dimethylaminopyridine were added to the solution, and the mixture was stirred at room temperature for 15 hours. Ethyl acetate was added to the reaction solution. The mixture was washed with 10% citric acid aqueous solution and saturated sodium bicarbonate aqueous solution in that order, dried over anhydrous sodium sulfate, and then evaporated. By recrystallizing the resulting residue from ethanol, 139 mg of N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]acetamide was obtained.

reactant | 7-[[4-[(1-t-Butoxycarbonyl-4-piperidyl)oxy]anilino]methyl]-2-naphthalenecarbonitrile | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(NCC2=CC=C3C=CC(=CC3=C2)C#N)C=C1 | C28H31N3O3
reactant | acetic anhydride | 268 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]acetamide | 139 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(C(C)=O)CC1=CC2=CC(=CC=C2C=C1)C#N | C30H33N3O4
